US05578627
To a solution of 0.14 g of (R)-3-(2-amino-3-methanesulfinylpropoxy)-5-chloro-1,2-benzoisoxazole in 2 ml of methylene chloride is added 0.4 ml of a 2-propanol solution (6.5M) of hydrogen chloride, and the crystals precipitated are collected by filtration, to obtain 0.07 g of colorless, crystalline (R)-3-(2-amino-3-methanesulfinylpropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride.

reactant | (R)-3-(2-amino-3-methanesulfinylpropoxy)-5-chloro-1,2-benzoisoxazole | 0.14 g | N[C@H](COC1=NOC2=C1C=C(C=C2)Cl)CS(=O)C | C11H13ClN2O3S
reactant | 2-propanol | 6.5M, 0.4 ml | CC(C)O | C3H8O
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | (R)-3-(2-amino-3-methanesulfinylpropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.N[C@H](COC1=NOC2=C1C=C(C=C2)Cl)CS(=O)C | InChI=1S/C11H13ClN2O3S.ClH/c1-18(15)6-8(13)5-16-11-9-4-7(12)2-3-10(9)17-14-11;/h2-4,8H,5-6,13H2,1H3;1H/t8-,18?;/m1./s1
